US06110929
Using the general method of Example 9 Part A, a suspension of 3-amino-quinoline-4-thiol (15 g) in butyric acid was reacted with butyric anhydride to provide 2-propylthiazolo[4,5-c]quinoline as a yellow oil.

reactant | 3-amino-quinoline-4-thiol | 15 g | NC=1C=NC2=CC=CC=C2C1S | C9H8N2S
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | butyric acid | C(CCC)(=O)O | C4H8O2
product | 2-propylthiazolo[4,5-c]quinoline | C(CC)C=1SC2=C(C=NC=3C=CC=CC23)N1 | C13H12N2S
